US04072689
5-Carbamoyl-4-methyl-2-phenyloxazole
150 Ml. (2.5 mole) of concentrated ammonium hydroxide is added dropwise to a solution of 10 g. (0.0434 mole) of 5-carbethoxy-2-phenyl-4-methyloxazole in 150 ml. of 95% ethanol. The mixture is stirred three days at room temperature, then it is concentrated to 50 ml. by evaporating the ethanol and chilled. The precipitated product is filtered, washed, dried over sodium sulfate and recrystallized from methanol; yield 3.7 g. of the title compound; m.p. 187°-190°.

reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | 5-carbethoxy-2-phenyl-4-methyloxazole | 0.0434 mole | C(=O)(OCC)C1=C(N=C(O1)C1=CC=CC=C1)C | C13H13NO3
solvent | ethanol | C(C)O | C2H6O
product | 5-Carbamoyl-4-methyl-2-phenyloxazole | C(N)(=O)C1=C(N=C(O1)C1=CC=CC=C1)C | C11H10N2O2
